US07977331B1
To a suspension of methyl 2-bromo-3-cyclohexyl-1-(2-oxopropyl)-1H-indole-6-carboxylate (700 mg, 1.78 mmol) and 5-methyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylamine (456 mg, 1.96 mmol) in 1,2-dimethoxyethane (6 ml) and water (2 ml) were added sodium hydrogen carbonate (177 mg, 2.14 mmol) and tetrakis(triphenylphosphine)palladium (103 mg, 0.09 mmol), and the mixture was heated under reflux for 4 hr. The reaction mixture was allowed to cool to room temperature, water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was successively washed with saturated aqueous sodium hydrogen carbonate solution and saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography (hexane:ethyl acetate=3:1) to give methyl 2-(2-amino-4-methylphenyl)-3-cyclohexyl-1-(2-oxopropyl)-1H-indole-6-carboxylate (727 mg, yield 97%).

reactant | methyl 2-bromo-3-cyclohexyl-1-(2-oxopropyl)-1H-indole-6-carboxylate | 1.78 mmol, 700 mg | BrC=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CC(C)=O | C19H22BrNO3
reactant | 5-methyl-2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylamine | 1.96 mmol, 456 mg | CC=1C=CC(=C(C1)N)B1OC(C(O1)(C)C)(C)C | C13H20BNO2
reactant | sodium hydrogen carbonate | 2.14 mmol, 177 mg | C(O)([O-])=O.[Na+]
solvent | 1,2-dimethoxyethane | 6 ml | COCCOC | C4H10O2
solvent | water | 2 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.09 mmol, 103 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl 2-(2-amino-4-methylphenyl)-3-cyclohexyl-1-(2-oxopropyl)-1H-indole-6-carboxylate | 727 mg, yield 97% | NC1=C(C=CC(=C1)C)C=1N(C2=CC(=CC=C2C1C1CCCCC1)C(=O)OC)CC(C)=O | C26H30N2O3
